US07943622B2
Step 3. Synthesis of N-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4-(methylcarbamoyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (35 mg, 0.081 mmol) in MeOH (1 mL). After stirring for 1 h, the reaction mixture was concentrated under reduced pressure, yielding 31.9 mg (97%) of the title compound. LC-MS: RT=1.37 min, (M+H)+=334.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-(methylcarbamoyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.081 mmol, 35 mg | CNC(=O)C=1N=C(SC1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C20H27N5O4S
solvent | MeOH | 1 mL | CO | CH4O
product | N-methyl-2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazole-4-carboxamide dihydrochloride | 31.9 mg, 97% | Cl.Cl.CNC(=O)C=1N=C(SC1)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C15H19N5O2S.2ClH/c1-16-14(21)13-10-23-15(19-13)20-6-5-18-7-11(20)9-22-12-3-2-4-17-8-12;;/h2-4,8,10-11,18H,5-7,9H2,1H3,(H,16,21);2*1H
